.INCLUDE  /home/PDK/ss28nm/SEC_CDS/ln28lppdk/S00-V1.1.0.1_SEC2.0.6.2/oa/cmos28lp/.resources/devices.cdl
.GLOBAL VDD VSS
.SUBCKT StrongArmLatch CLK INn INp SSn SSp VDD VSS
MP5 net085 CLK VDD VDD slvtpfet w=0.992u l=0.056u nf=2.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP4 SSp CLK VDD VDD slvtpfet w=2.976u l=0.056u nf=6.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP3 net088 CLK VDD VDD slvtpfet w=0.992u l=0.056u nf=2.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP2 SSn CLK VDD VDD slvtpfet w=2.976u l=0.056u nf=6.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP1 SSn SSp VDD VDD slvtpfet w=3.472u l=0.056u nf=7.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP0 SSp SSn VDD VDD slvtpfet w=3.472u l=0.056u nf=7.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN7 net085 INn net083 VSS slvtnfet w=4.88u l=0.056u nf=10.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN2 net088 INp net083 VSS slvtnfet w=4.88u l=0.056u nf=10.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN4 SSp SSn net085 VSS slvtnfet w=1.464u l=0.056u nf=3.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN3 SSn SSp net088 VSS slvtnfet w=1.464u l=0.056u nf=3.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN1 net083 CLK VSS VSS slvtnfet w=2.16u l=0.056u nf=9.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
.ENDS
.SUBCKT CLK_drv_inv IN OUT VDD VSS
MN10 OUT IN VSS VSS slvtnfet w=2.832u l=0.044u nf=8.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP10 OUT IN VDD VDD slvtpfet w=5.664u l=0.044u nf=8.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
.ENDS
.SUBCKT ResistorBankCell S SB VCM VDD VRX VSS
RR20 VRX net13 $SUB=VSS $[opppcres] r=0.725156k w=1.518u l=2.34u pbar=1 s=1 bp=3 ncr=2
MN20 net13 S VCM VSS slvtnfet w=2.06u l=0.042u nf=10.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP20 net13 SB VCM VDD slvtpfet w=6.18u l=0.042u nf=10.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
.ENDS
.SUBCKT ResistorBank S<0> SB<0> S<1> SB<1> S<2> SB<2> S<3> SB<3> S<4> SB<4> S<5> SB<5> S<6> SB<6> S<7> SB<7> S<8> SB<8> S<9> SB<9> S<10> SB<10> S<11> SB<11> S<12> SB<12> S<13> SB<13> S<14> SB<14> S<15> SB<15> S<16> SB<16> S<17> SB<17> S<18> SB<18> S<19> SB<19> S<20> SB<20> S<21> SB<21> S<22> SB<22> S<23> SB<23> VCM VDD VRX VSS
XIR<0> S<0> SB<0> VCM VDD VRX VSS / ResistorBankCell
XIR<1> S<1> SB<1> VCM VDD VRX VSS / ResistorBankCell
XIR<2> S<2> SB<2> VCM VDD VRX VSS / ResistorBankCell
XIR<3> S<3> SB<3> VCM VDD VRX VSS / ResistorBankCell
XIR<4> S<4> SB<4> VCM VDD VRX VSS / ResistorBankCell
XIR<5> S<5> SB<5> VCM VDD VRX VSS / ResistorBankCell
XIR<6> S<6> SB<6> VCM VDD VRX VSS / ResistorBankCell
XIR<7> S<7> SB<7> VCM VDD VRX VSS / ResistorBankCell
XIR<8> S<8> SB<8> VCM VDD VRX VSS / ResistorBankCell
XIR<9> S<9> SB<9> VCM VDD VRX VSS / ResistorBankCell
XIR<10> S<10> SB<10> VCM VDD VRX VSS / ResistorBankCell
XIR<11> S<11> SB<11> VCM VDD VRX VSS / ResistorBankCell
XIR<12> S<12> SB<12> VCM VDD VRX VSS / ResistorBankCell
XIR<13> S<13> SB<13> VCM VDD VRX VSS / ResistorBankCell
XIR<14> S<14> SB<14> VCM VDD VRX VSS / ResistorBankCell
XIR<15> S<15> SB<15> VCM VDD VRX VSS / ResistorBankCell
XIR<16> S<16> SB<16> VCM VDD VRX VSS / ResistorBankCell
XIR<17> S<17> SB<17> VCM VDD VRX VSS / ResistorBankCell
XIR<18> S<18> SB<18> VCM VDD VRX VSS / ResistorBankCell
XIR<19> S<19> SB<19> VCM VDD VRX VSS / ResistorBankCell
XIR<20> S<20> SB<20> VCM VDD VRX VSS / ResistorBankCell
XIR<21> S<21> SB<21> VCM VDD VRX VSS / ResistorBankCell
XIR<22> S<22> SB<22> VCM VDD VRX VSS / ResistorBankCell
XIR<23> S<23> SB<23> VCM VDD VRX VSS / ResistorBankCell
.ENDS
.SUBCKT Inv IN OUT VDD VSS
MN30 OUT IN VSS VSS slvtnfet w=2.34u l=0.052u nf=9.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP30 OUT IN VDD VDD slvtpfet w=4.68u l=0.052u nf=9.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
.ENDS
.SUBCKT SRLatch IN INb OUT OUTb VDD VSS
MN45 OUTb net26 VSS VSS slvtnfet w=3.64u l=0.052u nf=14.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN48 net38 OUTb VSS VSS slvtnfet w=2.6u l=0.052u nf=10.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN46 OUTb IN net37 VSS slvtnfet w=3.64u l=0.052u nf=14.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN42 OUT net10 VSS VSS slvtnfet w=3.64u l=0.052u nf=14.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN47 net37 OUT VSS VSS slvtnfet w=2.6u l=0.052u nf=10.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN40 OUT INb net38 VSS slvtnfet w=3.64u l=0.052u nf=14.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP45 OUT INb VDD VDD slvtpfet w=7.28u l=0.052u nf=14.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP44 OUTb IN VDD VDD slvtpfet w=7.28u l=0.052u nf=14.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP43 net33 OUT VDD VDD slvtpfet w=5.2u l=0.052u nf=10.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP42 OUTb net26 net33 VDD slvtpfet w=7.28u l=0.052u nf=14.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP41 net35 OUTb VDD VDD slvtpfet w=5.2u l=0.052u nf=10.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP40 OUT net10 net35 VDD slvtpfet w=7.28u l=0.052u nf=14.0 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
XI49 IN net10 VDD VSS / Inv
XI46 INb net26 VDD VSS / Inv
.ENDS
.SUBCKT Receiver CK<0> OUT<0> OUTb<0> CK<1> OUT<1> OUTb<1> CK<2> OUT<2> OUTb<2> CK<3> OUT<3> OUTb<3> S<0> SB<0> S<1> SB<1> S<2> SB<2> S<3> SB<3> S<4> SB<4> S<5> SB<5> S<6> SB<6> S<7> SB<7> S<8> SB<8> S<9> SB<9> S<10> SB<10> S<11> SB<11> S<12> SB<12> S<13> SB<13> S<14> SB<14> S<15> SB<15> S<16> SB<16> S<17> SB<17> S<18> SB<18> S<19> SB<19> S<20> SB<20> S<21> SB<21> S<22> SB<22> S<23> SB<23> VCM VDD VRX VSS Vref
XISA<0> CLK<0> Vref VRX ssp<0> ssn<0> VDD VSS / StrongArmLatch
XISA<1> CLK<1> Vref VRX ssp<1> ssn<1> VDD VSS / StrongArmLatch
XISA<2> CLK<2> Vref VRX ssp<2> ssn<2> VDD VSS / StrongArmLatch
XISA<3> CLK<3> Vref VRX ssp<3> ssn<3> VDD VSS / StrongArmLatch
XIInv<0> CK<0> CLK<0> VDD VSS / CLK_drv_inv
XIInv<1> CK<1> CLK<1> VDD VSS / CLK_drv_inv
XIInv<2> CK<2> CLK<2> VDD VSS / CLK_drv_inv
XIInv<3> CK<3> CLK<3> VDD VSS / CLK_drv_inv
XISR<0> ssn<0> ssp<0> OUT<0> OUTb<0> VDD VSS / SRLatch
XISR<1> ssn<1> ssp<1> OUT<1> OUTb<1> VDD VSS / SRLatch
XISR<2> ssn<2> ssp<2> OUT<2> OUTb<2> VDD VSS / SRLatch
XISR<3> ssn<3> ssp<3> OUT<3> OUTb<3> VDD VSS / SRLatch
XI58 S<0> SB<0> S<1> SB<1> S<2> SB<2> S<3> SB<3> S<4> SB<4> S<5> SB<5> S<6> SB<6> S<7> SB<7> S<8> SB<8> S<9> SB<9> S<10> SB<10> S<11> SB<11> S<12> SB<12> S<13> SB<13> S<14> SB<14> S<15> SB<15> S<16> SB<16> S<17> SB<17> S<18> SB<18> S<19> SB<19> S<20> SB<20> S<21> SB<21> S<22> SB<22> S<23> SB<23> VCM VDD VRX VSS / ResistorBank
.ENDS
